Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Right upper extremity DVT
 
Major Surgical or Invasive Procedure:
1. Lysis catheter placement in the basilic
vein of the right upper extremity
2. Lysis check and balloon angioplasty of
the subclavian vein and suction thrombectomy of the subclavian
vein.

 
History of Present Illness:
___ is a ___ patient presents with
RUE DVT. Symptoms first began on ___ when she developed 
swelling in the RUE. She is a very avid weightlifter and does 
cross fit
exercises where she was lifting logs overhead on ___. She was
identified with a right axillary and brachial DVT, without
extension into the subclavian vein.  She was started on Eliquis, 
and she had
improvement in the tightness and swelling. 

She is right-handed.  PE was detected in the left lower lobe on 
imaging, 
she reported pain on her right side.  She is otherwise
healthy, and is not pregnant.  Ultrasound demonstrated 
non-occlusive clot in the basilic  
and occlusive thrombus in the subclavian vein. 

Patient was admitted to the hospital for lysis catheter 
placement in the right upper extremity.
 
Past Medical History:
Celiac Disease, Lymphadema
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
General: Well-developed, no acute distress 
Neuro: neurologically intact 
CV: RRR
Abd: Non-tender, non-distended
Ext:
 palpable pulses throughout her right arm 
 palpable radial pulse, mild tenderness with movement. No 
significant swelling.

 
Pertinent Results:
___ 10:00PM   WBC-5.7 RBC-4.14 HGB-10.6* HCT-32.7* MCV-79* 
MCH-25.6* MCHC-32.4 RDW-13.0 RDWSD-37.2

___ 10:00PM   PLT COUNT-215
___ 10:00PM   PTT-36.2
___ 10:00PM   ___
___ 03:25PM   WBC-6.0 RBC-4.43 HGB-11.2 HCT-35.2 MCV-80* 
MCH-25.3* MCHC-31.8* RDW-13.0 RDWSD-37.1
___ 03:25PM   PLT COUNT-295
___ 03:25PM   PTT-30.1
___ 03:25PM   ___: The patient was admitted for lysis catheter placement 
in the basilic vein of the RUE. The basilic vein was found to be 
occluded, with enlarged collateralization of the RUE.
___: The patient returned to the OR for lysis check. She 
was found to have patent basilic, axillary, and subclavian 
veins. Angioplasty was performed at the proximal portion of the 
subclavian vein.

Prior the discharge, the patient was tolerating a diet, voiding, 
able to ambulate. Patient was started on apixaban 5 mg twice 
daily, and told to follow up in clinic as directed.

 
Medications on Admission:
Acetaminophen 650 mg PO Q6H:PRN pain 
Citalopram 
Spironolactone 
Birth Control
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN pain  
2.  Acetaminophen 650 mg PO Q6H:PRN pain 
RX *acetaminophen 325 mg 2 capsule(s) by mouth Every 4 to 6 
hours as needed for pain. Disp #*30 Capsule Refills:*1 
3.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth Twice daily 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right upper extremity deep vein thrombosis status post lysis of 
basilic vein thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital for a blood 
clot in your right arm. You had medications given in the arm to 
help break up the clot. To do the procedure, a small puncture 
was made in one of your arteries.  The puncture site heals on 
its own: there are no stitches to remove.   You tolerated the 
procedure well and are now ready to be discharged from the 
hospital.   Please follow the recommendations below to ensure a 
speedy and uneventful recovery.

Peripheral Angiography
Puncture Site Care
For one week:
•Do not take a tub bath, go swimming or use a Jacuzzi or hot 
tub.
•Use only mild soap and water to gently clean the area around 
the puncture site. 
•Gently pat the puncture site dry after showering. 
•Do not use powders, lotions, or ointments in the area of the 
puncture site. 

You may remove the bandage and shower the day after the 
procedure.  You may leave the bandage off. 
You may have a small bruise around the puncture site.  This is 
normal and will go away one-two weeks. 
Activity 
For the first 48 hours: 
•Do not drive for 48 hours after the procedure
For the first week:
•Do not lift, push , pull or carry anything heavier than 10 
pounds
•Do not do any exercises or activity that causes you to hold 
your breath or bear down with abdominal muscles.   Take care not 
to put strain on your abdominal muscles when coughing, sneezing, 
or moving your bowels.
After one week:
•You may go back to all your regular activities, including 
sexual activity.  We suggest you begin your exercise program at 
half of your usual routine for the first few days.   You may 
then gradually work back to your full routine.

Medications:
Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  

For  Problems or Questions:
Call ___ in an emergency such as:
•Sudden, brisk bleeding or swelling at the puncture site that 
does not stop after applying pressure for ___ minutes
•Bleeding that is associated with nausea, weakness, or 
fainting.
Call the vascular surgery office (___) right away if 
you have any of the following. (Please note that someone is 
available 24 hours a day, 7 days a week)
•Swelling, bleeding, drainage, or discomfort at the puncture 
site that is new or increasing since discharge from the hospital
•Any change in sensation or temperature in your legs
•Fever of 101 or greater
•Any questions or concerns about recovery from your angiogram 

On the discharge worksheet, “Key Information for Other 
Providers” must include:
ANTIBIOTICS: None
ANTICOAGULATION: Apixaban 5 mg twice daily

 
Followup Instructions:
___